US07786165B2
3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)phenyl]propanoic acid
To a solution of methyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)phenyl]propanoate (100 mg, 0.20 mmol) in methanol (5 mL) and tetrahydrofuran (5 mL) was added 1 M aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into water, and the mixture was weakly acidified with 10% aqueous citric acid solution and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated. The residue was purified by silica gel column chromatography (20%-80% ethyl acetate/hexane) to give the title compound (75 mg, yield 77%) as colorless crystals.

reactant | methyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)phenyl]propanoate | 0.20 mmol, 100 mg | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(CNC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C33H31N3O2
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)phenyl]propanoic acid | 75 mg, yield 77% | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(CNC2=CC=C(C=C2)CCC(=O)O)C=C1 | C32H29N3O2
